US07045545B1
3-(5-trifluoromethylbenzofur-7-yl)-2-butanol
A solution of 0.09 gm (0.35 mMol) 3-(5-trifluoromethylbenzofur-7-yl)-2-butanone in ethanol was cooled to 0° C. To this solution was added 0.013 gm (0.35 mMol) sodium borohydride and the resulting mixture stirred for 30 minutes. The reaction mixture was then allowed to warm to room temperature and was concentrated under reduced pressure. The residue was taken up in ethyl acetate and washed sequentially with 0.1 N hydrochloric acid, water, and saturated aqueous sodium chloride. The remaining organic phase was concentrated under reduced pressure and the residue subjected to silica gel chromatography, eluting with 30% ethyl acetate in hexane. Fractions containing product were combined and concentrated under reduced pressure to provide 0.041 gm (45%) of the desired compound.

reactant | 3-(5-trifluoromethylbenzofur-7-yl)-2-butanone | 0.35 mMol, 0.09 gm | FC(C=1C=C(C2=C(C=CO2)C1)C(C(C)=O)C)(F)F | C13H11F3O2
reactant | sodium borohydride | 0.35 mMol, 0.013 gm | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(5-trifluoromethylbenzofur-7-yl)-2-butanol | 0.041 gm, 45% | FC(C=1C=C(C2=C(C=CO2)C1)C(C(C)O)C)(F)F | C13H13F3O2
